US03980795
A solution of 105.5 g 3-(4'-fluoro-4-biphenylyl)-3-hydroxybutyric acid and 5.3 g p-toluenesulfonic acid in 1500 ml of toluene is heated for 2,5 hours and worked up in the usual manner to give 3-(4'-fluoro-4-biphenylyl)-2-butenoic acid, m.p. 58° - 60°.

reactant | 3-(4'-fluoro-4-biphenylyl)-3-hydroxybutyric acid | 105.5 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(=O)O)(C)O | C16H15FO3
reactant | p-toluenesulfonic acid | 5.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 1500 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4'-fluoro-4-biphenylyl)-2-butenoic acid | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(=CC(=O)O)C | C16H13FO2
